US08470803B2
To a solution of tert-butyl 4-bromo-3-methylphenylcarbamate (4.36 g, 15.24 mmol) in N,N-dimethylformamide (60 mL) on an ice bath under a nitrogen balloon was added sodium hydride (0.610 g, 15.24 mmol). The reaction was stirred on an ice-water bath for 10 min. The ice bath was removed and to the solution was added a solution of 6-chloro-2-methoxynicotinonitrile (3.85 g, 22.86 mmol) in N,N-dimethylformamide (40 mL) dropwise. After addition completed, the mixture was stirred overnight at 50° C. Water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure to obtain the crude product. The crude was then purified by silica gel column (100% hexanes to 8:2 hexanes/ethyl acetate) to give tert-butyl 4-bromo-3-methylphenyl(5-cyano-6-methoxypyridin-2-yl)carbamate (3.15 g, 49%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.37 (s, 9H), 2.30 (s, 3H), 3.55 (s, 3H), 7.00 (dd, J=2.6, 8.4 Hz, 1H), 7.22 (d, J=2.5 Hz, 1H), 7.40 (d, J=8.5 Hz, 1H), 7.58 (d, J=8.4 Hz, 1H), 8.17 (d, J=8.4 Hz, 1H), 8.30 (d, J=8.0 Hz, 1H).

reactant | tert-butyl 4-bromo-3-methylphenylcarbamate | 15.24 mmol, 4.36 g | BrC1=C(C=C(C=C1)NC(OC(C)(C)C)=O)C | C12H16BrNO2
reactant | sodium hydride | 15.24 mmol, 0.610 g | [H-].[Na+]
reactant | 6-chloro-2-methoxynicotinonitrile | 22.86 mmol, 3.85 g | ClC1=NC(=C(C#N)C=C1)OC | C7H5ClN2O
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | tert-butyl 4-bromo-3-methylphenyl(5-cyano-6-methoxypyridin-2-yl)carbamate | 3.15 g, 49% | BrC1=C(C=C(C=C1)N(C(OC(C)(C)C)=O)C1=NC(=C(C=C1)C#N)OC)C | C19H20BrN3O3
